US07795282B2
Step A: Preparation of ethyl 2-(2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)thiazole-4-carboxylate:
Prepared from 2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazole-3(2H)-carbothioamide as in Example 21, Step C, utilizing ethyl 3-bromo-2-oxopropanoate in place of tert-butyl 3-bromo-4-oxopiperidine-1-carboxylate, 57%.

reactant | 2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazole-3(2H)-carbothioamide | N(=[N+]=[N-])CCCC1(SC(=NN1C(N)=S)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C18H16F2N6S2
reactant | ethyl 3-bromo-2-oxopropanoate | BrCC(C(=O)OCC)=O | C5H7BrO3
product | ethyl 2-(2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)thiazole-4-carboxylate | N(=[N+]=[N-])CCCC1(SC(=NN1C=1SC=C(N1)C(=O)OCC)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C23H20F2N6O2S2
